US07872028B2
Step 10. tert-butyl (2S,3R)-3-hydroxy-4-(methylamino)-1-(tetrahydro-2H-pyran-4-yl)butan-2-ylcarbamate
A 250 mL flask was charged with [1-oxiranyl-2-(tetrahydro-pyran-4-yl)-ethyl]-carbamic acid tert-butyl ester (150 mg, 0.55 mmol) dissolved in MeNH2/EtOH solution and stirred overnight at 30-40° C. Then the mixture was concentrated and used directly in the next step.

reactant | [1-oxiranyl-2-(tetrahydro-pyran-4-yl)-ethyl]-carbamic acid tert-butyl ester | 0.55 mmol, 150 mg | C(C)(C)(C)OC(NC(CC1CCOCC1)C1OC1)=O | C14H25NO4
reactant | MeNH2 EtOH | CN.CCO
product | tert-butyl (2S,3R)-3-hydroxy-4-(methylamino)-1-(tetrahydro-2H-pyran-4-yl)butan-2-ylcarbamate | O[C@@H]([C@H](CC1CCOCC1)NC(OC(C)(C)C)=O)CNC | C15H30N2O4
